US05023255
N-(3,5-Difluorophenyl)glycine methyl ester
A suspension of 3,5-difluoroaniline (15.0 g) and sodium bicarbonate (19.5 g) in methyl chloroacetate (15.2 ml) was stirred at 80°-90° under nitrogen for 60 h. More sodium bicarbonate (4.88 g) and methyl chloroacetate (5.1 ml) were added, and the suspension was stirred at 80°-90° for a further 24 h. Work up according to the method of Intermediate 5 gave a solid (16 g) which was recrystallised from chloroform (10 ml) and n-hexane (120 ml) to give the title compound (8.34 g), m.p. 75°-77°.

reactant | 3,5-difluoroaniline | 15.0 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | sodium bicarbonate | 19.5 g | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 4.88 g | C([O-])(O)=O.[Na+]
reactant | methyl chloroacetate | 15.2 ml | ClCC(=O)OC | C3H5ClO2
reactant | methyl chloroacetate | 5.1 ml | ClCC(=O)OC | C3H5ClO2
product | N-(3,5-Difluorophenyl)glycine methyl ester | 16 g | COC(CNC1=CC(=CC(=C1)F)F)=O | C9H9F2NO2
